US04126689
A mixture of 4 parts of iodoethane, 5 parts of N-(2,6-dimethylphenyl)-N-(4-piperidinyl)benzeneacetamide, 5 parts of sodium carbonate, a few crystals of potassium iodide in 200 parts of benzene is stirred and refluxed for 23 hours. The reaction mixture is filtered hot and the filtrate is evaporated in vacuo. The solid residue is crystallized from 1,1'-oxybisethane, yielding 2 parts of N-(2,6-dimethylphenyl)-N-(1-ethyl-4-piperidinyl)-benzeneacetamide; mp. 86.5° C.

reactant | iodoethane | ICC | C2H5I
reactant | N-(2,6-dimethylphenyl)-N-(4-piperidinyl)benzeneacetamide | CC1=C(C(=CC=C1)C)N(C(CC1=CC=CC=C1)=O)C1CCNCC1 | C21H26N2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(2,6-dimethylphenyl)-N-(1-ethyl-4-piperidinyl)-benzeneacetamide | CC1=C(C(=CC=C1)C)N(C(CC1=CC=CC=C1)=O)C1CCN(CC1)CC | C23H30N2O
